US04942245
2-[3-(3-Acetoxy-4-acetyl-2-propylphenoxy)propyl-thio]benzimidazole-5-carboxylic acid
A mixture of 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propylthio]benzimidazole-5-carboxylic acid (1.50 g), triethylamine (4 ml), acetic anhydride (4 ml) and 4-dimethylaminopyridine (100 mg) in dichloromethane (50 ml) was stirred at 0 ° C. and then at room temperature for 5 hours. Methanol (4 ml) was added to the mixture, further stirred for an additional 30 minutes and then the mixture was evaporated. The residue was washed with water, dissolved in ethanol, and concentrated to dryness. The residue was purified by silica gel column chromatography, eluting with dichloromethane-ethyl acetate-methanol (10:2:1), and recrystallized from n-hexane-chloroform to give the title compound (970 mg, 58.2%) as yellow crystals, mp 85-87 ° C.

reactant | 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propylthio]benzimidazole-5-carboxylic acid | 1.50 g | C(C)(=O)C1=C(C(=C(OCCCSC=2NC3=C(N2)C=CC(=C3)C(=O)O)C=C1)CCC)O | C22H24N2O5S
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Methanol | 4 ml | CO | CH4O
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-[3-(3-Acetoxy-4-acetyl-2-propylphenoxy)propyl-thio]benzimidazole-5-carboxylic acid | 970 mg, 58.2% | C(C)(=O)OC=1C(=C(OCCCSC=2NC3=C(N2)C=CC(=C3)C(=O)O)C=CC1C(C)=O)CCC | C24H26N2O6S
